US05023334
Preparation of nicotinic acid (phenyl-4-pyridinylmethylene)hydrazide, Compound 353
A mixture of 9.16 gm (0.05 mole) of 4-benzoyl pyridine, 6.86 gm (0.05 mole) of nicotinic acid hydrazide, 100 ml of ethanol and 4.4 ml of concentrated hydrochloric acid was refluxed 16 hr. The reaction mixture was cooled to room temperature. An equal volume of water was added containing 5.4 gm (0.05 mole) of sodium carbonate. The mixture was placed in the refrigerator. The product which separated was collected, washed with water and dried to give 8.21 gm (54%) of the title compound having a melting point of 74.0° C.

reactant | 4-benzoyl pyridine | 0.05 mole, 9.16 gm | C(C1=CC=CC=C1)(=O)C1=CC=NC=C1 | C12H9NO
reactant | nicotinic acid hydrazide | 0.05 mole, 6.86 gm | C(C1=CN=CC=C1)(=O)NN | C6H7N3O
reactant | hydrochloric acid | 4.4 ml | Cl | ClH
reactant | sodium carbonate | 0.05 mole, 5.4 gm | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | nicotinic acid (phenyl-4-pyridinylmethylene)hydrazide | 8.21 gm, 54% | C1(=CC=CC=C1)C(C1=CC=NC=C1)=NNC(C1=CN=CC=C1)=O | C18H14N4O
